US08247429B2
N-[2-(2-methyl-1,6,7,8-tetrahydroindeno[4,5-d]imidazol-8-yl)ethyl]acetamide
(3-Benzyl-2-methyl-6,7-dihydroindeno[4,5-d]imidazol-8(3H)-ylidene)acetonitrile was dissolved in 2M ammonia/ethanol solution (14 mL), Raney cobalt (10 g) was added, and the mixture was stirred under a hydrogen atmosphere at room temperature for 14 hr. The catalyst was filtered off through celite, and the filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (3 mL), triethylamine (34.9 μL, 0.25 mmol) and acetic anhydride (18.9 μL, 0.20 mmol) were added, and the mixture was stirred at room temperature for 30 min. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=5/95→15/85). The purified product was dissolved in methanol (3 mL), palladium-carbon powder (20 mg) was added, and the mixture was stirred under a hydrogen atmosphere at room temperature for 5 hr. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methanol/ethyl acetate=5/95→20/80) to give the title compound (13.4 mg, yield 31%).

reactant | (3-Benzyl-2-methyl-6,7-dihydroindeno[4,5-d]imidazol-8(3H)-ylidene)acetonitrile | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC=1CCC(C12)=CC#N)C | C20H17N3
reactant | triethylamine | 0.25 mmol, 34.9 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.20 mmol, 18.9 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ammonia ethanol | 2M, 14 mL | N.C(C)O
catalyst | cobalt | 10 g | [Co] | Co
product | N-[2-(2-methyl-1,6,7,8-tetrahydroindeno[4,5-d]imidazol-8-yl)ethyl]acetamide | 13.4 mg, yield 31% | CC1=NC2=C(N1)C=1C(CCC1C=C2)CCNC(C)=O | C15H19N3O
